US06528525B1
Palladium on carbon (5%, 0.15 g) was added to a solution of 4-(3-benzyloxycarbonylaminopropyl)benzylalcohol (1.00 g), which is the product of Reference example 50(a) in ethanol (20 ml). The mixture was stirred under an atmosphere of hydrogen at ambient temperature for 2 hours. The catalyst was removed by filtration and the filtrate was concentrated to afford 4-(3-aminopropyl)benzylalcohol as a gum. In a similar manner to that described in Example 5, a reaction was carried out using 4-(3-aminopropyl)benzylalcohol, 4-pyridine-2-ylbenzoic acid (668 mg) and carbonyidiimidazole (650 mg) and the reaction mixture was treated to afford the desired compound (0.74 g) as colorless crystals.

reactant | 4-(3-benzyloxycarbonylaminopropyl)benzylalcohol | 1.00 g | C(C1=CC=CC=C1)OC(=O)NCCCC1=CC=C(CO)C=C1 | C18H21NO3
catalyst | Palladium on carbon | 0.15 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(3-aminopropyl)benzylalcohol | NCCCC1=CC=C(CO)C=C1 | C10H15NO
